US05051423
1-[[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl](phenylmethyl)amino]-3-(3-methylphenoxy)-2-propanol
To a solution of 2.75 g (17 mmol) 2,3-epoxypropyl 3-methylphenyl ether in 50 mL methanol add 4.4 g (15 mmol) 2-[4-(1H-imidazol-1-yl)phenoxy]-N-(phenylmethyl)ethanamine and heat to 50° C. for 24 h. Follow the progress of the reaction by thin-layer chromatography on silica gel (methylene chloride:methanol, 9:1). At the completion of the reaction, evaporate the solvents. The resulting oil is chromatographed on a silica gel column using 2% methanol in methylene chloride to provide the title compound.

reactant | 2,3-epoxypropyl 3-methylphenyl ether | 17 mmol, 2.75 g | CC=1C=C(C=CC1)OCC1CO1 | C10H12O2
reactant | 2-[4-(1H-imidazol-1-yl)phenoxy]-N-(phenylmethyl)ethanamine | 15 mmol, 4.4 g | N1(C=NC=C1)C1=CC=C(OCCNCC2=CC=CC=C2)C=C1 | C18H19N3O
solvent | methanol | 50 mL | CO | CH4O
product | 1-[[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl](phenylmethyl)amino]-3-(3-methylphenoxy)-2-propanol | N1(C=NC=C1)C1=CC=C(OCCN(CC(COC2=CC(=CC=C2)C)O)CC2=CC=CC=C2)C=C1 | C28H31N3O3
